US09212160B2
A 1000 mL three-neck flask was charged with 4-hydroxybenzophenone (50.00 g; 252.2 mmol), 1-bromo-3-chloropropane (79.41 g; 504.4 mmol) and 2-butanone (500 mL). After flushing with nitrogen, anhydrous potassium carbonate (104.6 g; 756.5 mmol) was added and the reaction mixture was stirred at reflux for 24 h. Full consumption of the starting 4-hydroxybenzophenone was confirmed by TLC. The reaction mixture was filtered, the filtrate evaporated, the oily residue dissolved in dichloromethane (300 mL) and extracted with water (3×100 mL). The organic phase was separated, evaporated, and the unreacted 1-bromo-3-chloropropane was removed by heating to 70° C. in vacuo. The residue was dissolved in 2-butanone (500 mL) and sodium iodide (45.36 g; 302.6 mmol) was added. The reaction mixture was refluxed for 6 h. The reaction mixture was filtered, the filtrate evaporated, the oily residue dissolved in dichloromethane (300 mL) and extracted with water (3×100 mL). The organic phase was separated, evaporated, the light brown oily residue dried in vacuo to give crude 4-(3-iodopropoxyl)benzophenone (light brown solid; 83.2 g).

reactant | 4-hydroxybenzophenone | 252.2 mmol, 50.00 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | 1-bromo-3-chloropropane | 504.4 mmol, 79.41 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 756.5 mmol, 104.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 302.6 mmol, 45.36 g | [I-].[Na+]
solvent | 2-butanone | 500 mL | CC(CC)=O | C4H8O
product | 4-(3-iodopropoxyl)benzophenone | 83.2 g | ICCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H15IO2
